US09447090B2
To a solution of 200 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride in 5 ml of isopropylalcohol were added 220 μl of triethylamine and 72 μl of (trimethylsilyl)isocyanate, followed by stirring for 6 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with water, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine in this order, and dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. The obtained solid was suspended in ethyl acetate, and 120 μl of 4 M hydrogen chloride/ethyl acetate solution was added thereto, followed by stirring. The resulting solid was collected by filtration and dried to obtain 170 mg of N-[(3S)-1-carbamoylpiperidin-3-yl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride.

reactant | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 200 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CNCCC2
reactant | triethylamine | 220 μl | C(C)N(CC)CC | C6H15N
reactant | (trimethylsilyl)isocyanate | 72 μl | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | water | O | H2O
solvent | isopropylalcohol | 5 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3S)-1-carbamoylpiperidin-3-yl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride | 170 mg | Cl.C(N)(=O)N1C[C@H](CCC1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | InChI=1S/C22H31N5O3.ClH/c1-15-19(21(28)25-17-9-5-11-26(13-17)22(23)29)27-12-6-10-18(20(27)24-15)30-14-16-7-3-2-4-8-16;/h6,10,12,16-17H,2-5,7-9,11,13-14H2,1H3,(H2,23,29)(H,25,28);1H/t17-;/m0./s1
